US06846819B1
b) N, 1-Dimethyl-1H-indole-3-carboxamide
A suspension of methyl 1-methyl-1H-indole-3-carboxylate (4.30 g, 22.74 mmole) in 40% aqueous CH3NH2 (400 mL) was stirred at RT. The flask was tightly stoppered to keep the material inside the flask. As the reaction proceeded the product began to precipitate. The reaction was stirred at RT for 3 days, then was concentrated to remove approximately 200 mL of the solvent. The remaining residue was diluted with H2O (500 mL), and the solid was collected by suction filtration and washed with H2O. Flash chromatography on silica gel (ethyl acetate) gave the title compound (2.4 g, 56%) as a white solid: MS (ES) m/e 189 (M+H)+.

reactant | methyl 1-methyl-1H-indole-3-carboxylate | 22.74 mmole, 4.30 g | CN1C=C(C2=CC=CC=C12)C(=O)OC | C11H11NO2
reactant | CH3NH2 | 400 mL | CN | CH5N
product | N, 1-Dimethyl-1H-indole-3-carboxamide | 2.4 g, 56% | CNC(=O)C1=CN(C2=CC=CC=C12)C | C11H12N2O
